US07601716B2
[4-(4-Chlorophenyl)-4-hydroxypiperidin-1-yl]-(4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)methanone
4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 4-(4-chlorophenyl)-4-hydroxypiperidine as in General Procedure 10 to give the title compound. LCMS: m/z=640.96 (M+H+); retention time=0.94 minutes.

reactant | 4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C(=O)O)C=C3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 4-(4-chlorophenyl)-4-hydroxypiperidine | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
product | [4-(4-Chlorophenyl)-4-hydroxypiperidin-1-yl]-(4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)methanone | ClC1=CC=C(C=C1)C1(CCN(CC1)C(=O)C1=CC=C(C=C1)C1=CC2=C(NCCN2CC2=C(C=CC(=C2)Cl)C(F)(F)F)N=C1)O | C33H29Cl2F3N4O2
